US06217793B1
{circle around (4)}: A mixture comprising 3.3 g of 4-(4′-n-dodecylcarbonyloxyphenylcarbonyloxy)-1-benzyloxybenzene, 0.3 g of palladium/carbon and 20 g of ethyl acetate was stirred for 6 hours under hydrogen atmosphere. Then, palladium/carbon was filtered off, followed by distilling off ethyl acetate from the filtrate. The resultant residue was recrystallized from toluene, whereby 2.5 g of 4-(4′-n-dodecylcarbonyloxyphenylcarbonyloxy)phenol was obtained in the form of a colorless crystal.

reactant | 4-(4′-n-dodecylcarbonyloxyphenylcarbonyloxy)-1-benzyloxybenzene | 3.3 g | C(CCCCCCCCCCC)C(=O)OC1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C33H40O5
catalyst | palladium/carbon | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | 20 g | C(C)(=O)OCC | C4H8O2
product | 4-(4′-n-dodecylcarbonyloxyphenylcarbonyloxy)phenol | 2.5 g | C(CCCCCCCCCCC)C(=O)OC1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)O | C26H34O5
